** Name: SymmetricalOpAmp190

.MACRO SymmetricalOpAmp190 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 innerComplementarySecondStage innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=7e-6
mDiodeTransistorNmos2 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=5e-6 W=17e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=337e-6
mDiodeTransistorPmos4 out2FirstStage out2FirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=45e-6
mNormalTransistorNmos5 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=96e-6
mNormalTransistorNmos6 out innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=7e-6
mNormalTransistorNmos7 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=96e-6
mNormalTransistorNmos8 out2FirstStage outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=393e-6
mNormalTransistorNmos9 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=5e-6 W=337e-6
mNormalTransistorNmos10 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=17e-6
mNormalTransistorPmos11 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=2e-6 W=421e-6
mNormalTransistorPmos12 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=2e-6 W=174e-6
mNormalTransistorPmos13 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=2e-6 W=174e-6
mNormalTransistorPmos14 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=2e-6 W=421e-6
mNormalTransistorPmos15 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=66e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=66e-6
mNormalTransistorPmos17 SecondStageYinnerTransconductance out1FirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=109e-6
mNormalTransistorPmos18 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=109e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp190

** Expected Performance Values: 
** Gain: 54 dB
** Power consumption: 3.81501 mW
** Area: 9087 (mu_m)^2
** Transit frequency: 33.0011 MHz
** Transit frequency with error factor: 33.001 MHz
** Slew rate: 32.79 V/mu_s
** Phase margin: 55.577°
** CMRR: 101 dB
** negPSRR: 62 dB
** posPSRR: 55 dB
** VoutMax: 4.27001 V
** VoutMin: 0.740001 V
** VcmMax: 5 V
** VcmMin: 1.34001 V


** Expected Currents: 
** NormalTransistorNmos: 228.451 muA
** NormalTransistorPmos: -97.7159 muA
** NormalTransistorPmos: -97.7169 muA
** NormalTransistorPmos: -97.7159 muA
** NormalTransistorPmos: -97.7169 muA
** NormalTransistorNmos: 195.431 muA
** DiodeTransistorNmos: 195.432 muA
** NormalTransistorNmos: 97.7151 muA
** NormalTransistorNmos: 97.7151 muA
** NormalTransistorNmos: 164.564 muA
** NormalTransistorPmos: -164.563 muA
** NormalTransistorPmos: -164.562 muA
** DiodeTransistorNmos: 164.564 muA
** NormalTransistorPmos: -164.563 muA
** NormalTransistorPmos: -164.562 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -228.45 muA


** Expected Voltages: 
** ibias: 1.18101  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceTransconductanceComplementarySecondStage: 4.02701  V
** innerComplementarySecondStage: 1.14701  V
** out: 2.5  V
** out1FirstStage: 4.02701  V
** out2FirstStage: 3.68601  V
** outSourceVoltageBiasXXnXX1: 0.591001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 4.41101  V
** innerTransistorStack2Load1: 4.41101  V
** sourceTransconductance: 1.94001  V
** innerTransconductance: 4.57401  V
** inner: 4.57401  V
** inner: 0.589001  V


.END