** Name: SymmetricalOpAmp192

.MACRO SymmetricalOpAmp192 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=3e-6 W=86e-6
mDiodeTransistorNmos2 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=3e-6 W=14e-6
mDiodeTransistorNmos3 innerComplementarySecondStage innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage nmos4 L=3e-6 W=27e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=267e-6
mDiodeTransistorPmos5 out2FirstStage out2FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos6 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=228e-6
mNormalTransistorNmos7 out innerComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=3e-6 W=91e-6
mNormalTransistorNmos8 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=228e-6
mNormalTransistorNmos9 out2FirstStage outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=139e-6
mNormalTransistorNmos10 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=3e-6 W=267e-6
mNormalTransistorNmos11 SecondStageYinnerStageBias inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=3e-6 W=86e-6
mNormalTransistorNmos12 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=14e-6
mNormalTransistorPmos13 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=1e-6 W=234e-6
mNormalTransistorPmos14 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=497e-6
mNormalTransistorPmos15 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=497e-6
mNormalTransistorPmos16 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=1e-6 W=234e-6
mNormalTransistorPmos17 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=3e-6 W=44e-6
mNormalTransistorPmos18 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourcePmos sourcePmos pmos4 L=3e-6 W=44e-6
mNormalTransistorPmos19 SecondStageYinnerTransconductance out1FirstStage sourcePmos sourcePmos pmos4 L=3e-6 W=93e-6
mNormalTransistorPmos20 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=3e-6 W=93e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp192

** Expected Performance Values: 
** Gain: 99 dB
** Power consumption: 3.50701 mW
** Area: 7547 (mu_m)^2
** Transit frequency: 40.0701 MHz
** Transit frequency with error factor: 40.0704 MHz
** Slew rate: 39.7742 V/mu_s
** Phase margin: 56.1499°
** CMRR: 142 dB
** negPSRR: 117 dB
** posPSRR: 65 dB
** VoutMax: 4.25 V
** VoutMin: 0.970001 V
** VcmMax: 4.81001 V
** VcmMin: 1.28001 V


** Expected Currents: 
** NormalTransistorNmos: 100.034 muA
** NormalTransistorPmos: -94.2889 muA
** NormalTransistorPmos: -94.2899 muA
** NormalTransistorPmos: -94.2889 muA
** NormalTransistorPmos: -94.2899 muA
** NormalTransistorNmos: 188.578 muA
** DiodeTransistorNmos: 188.579 muA
** NormalTransistorNmos: 94.2881 muA
** NormalTransistorNmos: 94.2881 muA
** NormalTransistorNmos: 201.444 muA
** NormalTransistorNmos: 201.443 muA
** NormalTransistorPmos: -201.443 muA
** NormalTransistorPmos: -201.442 muA
** DiodeTransistorNmos: 201.442 muA
** DiodeTransistorNmos: 201.441 muA
** NormalTransistorPmos: -201.441 muA
** NormalTransistorPmos: -201.442 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -100.033 muA


** Expected Voltages: 
** ibias: 1.12701  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceStageBiasComplementarySecondStage: 0.692001  V
** inSourceTransconductanceComplementarySecondStage: 3.83601  V
** innerComplementarySecondStage: 1.60901  V
** out: 2.5  V
** out1FirstStage: 3.83601  V
** out2FirstStage: 3.68601  V
** outSourceVoltageBiasXXnXX1: 0.564001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 4.40001  V
** innerTransistorStack2Load1: 4.40001  V
** sourceTransconductance: 1.93801  V
** innerStageBias: 0.923001  V
** innerTransconductance: 4.40001  V
** inner: 4.40001  V
** inner: 0.563001  V


.END