** Name: SymmetricalOpAmp2

.MACRO SymmetricalOpAmp2 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=10e-6
mDiodeTransistorNmos2 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=64e-6
mDiodeTransistorNmos3 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=64e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=4e-6 W=42e-6
mDiodeTransistorPmos5 innerComplementarySecondStage innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=34e-6
mNormalTransistorNmos6 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=1e-6 W=91e-6
mNormalTransistorNmos7 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=1e-6 W=91e-6
mNormalTransistorNmos8 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=185e-6
mNormalTransistorNmos9 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=185e-6
mNormalTransistorPmos10 inOutputTransconductanceComplementarySecondStage ibias sourcePmos sourcePmos pmos4 L=4e-6 W=317e-6
mNormalTransistorPmos11 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=125e-6
mNormalTransistorPmos12 out innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=34e-6
mNormalTransistorPmos13 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=125e-6
mNormalTransistorPmos14 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=4e-6 W=511e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp2

** Expected Performance Values: 
** Gain: 52 dB
** Power consumption: 2.85901 mW
** Area: 4986 (mu_m)^2
** Transit frequency: 34.0181 MHz
** Transit frequency with error factor: 34.0184 MHz
** Slew rate: 35.141 V/mu_s
** Phase margin: 56.7229°
** CMRR: 106 dB
** negPSRR: 54 dB
** posPSRR: 102 dB
** VoutMax: 4.46001 V
** VoutMin: 0.300001 V
** VcmMax: 4.04001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** NormalTransistorPmos: -76.3329 muA
** DiodeTransistorNmos: 61.5231 muA
** DiodeTransistorNmos: 61.5231 muA
** NormalTransistorPmos: -123.046 muA
** NormalTransistorPmos: -61.5239 muA
** NormalTransistorPmos: -61.5239 muA
** NormalTransistorNmos: 176.178 muA
** NormalTransistorNmos: 176.179 muA
** NormalTransistorPmos: -176.177 muA
** DiodeTransistorPmos: -176.177 muA
** NormalTransistorNmos: 176.178 muA
** NormalTransistorNmos: 176.179 muA
** DiodeTransistorNmos: 76.3321 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.20501  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 0.706001  V
** inSourceTransconductanceComplementarySecondStage: 0.555001  V
** innerComplementarySecondStage: 3.89501  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.23001  V
** innerTransconductance: 0.150001  V
** inner: 0.150001  V


.END