** Name: SymmetricalOpAmp24

.MACRO SymmetricalOpAmp24 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=10e-6
mDiodeTransistorNmos2 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=3e-6 W=109e-6
mDiodeTransistorNmos3 innerComplementarySecondStage innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage nmos4 L=3e-6 W=218e-6
mDiodeTransistorPmos4 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=27e-6
mDiodeTransistorPmos5 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=13e-6
mDiodeTransistorPmos6 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=13e-6
mNormalTransistorNmos7 inOutputTransconductanceComplementarySecondStage ibias sourceNmos sourceNmos nmos4 L=3e-6 W=271e-6
mNormalTransistorNmos8 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=35e-6
mNormalTransistorNmos9 out innerComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=3e-6 W=207e-6
mNormalTransistorNmos10 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=35e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=3e-6 W=161e-6
mNormalTransistorNmos12 SecondStageYinnerStageBias inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=3e-6 W=109e-6
mNormalTransistorPmos13 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=509e-6
mNormalTransistorPmos14 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=509e-6
mNormalTransistorPmos15 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=33e-6
mNormalTransistorPmos16 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=33e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp24

** Expected Performance Values: 
** Gain: 100 dB
** Power consumption: 4.26201 mW
** Area: 4462 (mu_m)^2
** Transit frequency: 38.5971 MHz
** Transit frequency with error factor: 38.5975 MHz
** Slew rate: 40.4066 V/mu_s
** Phase margin: 65.3172°
** CMRR: 143 dB
** negPSRR: 57 dB
** posPSRR: 64 dB
** VoutMax: 4.26001 V
** VoutMin: 0.850001 V
** VcmMax: 4.25 V
** VcmMin: 0.760001 V


** Expected Currents: 
** NormalTransistorNmos: 272.996 muA
** DiodeTransistorPmos: -79.4879 muA
** DiodeTransistorPmos: -79.4879 muA
** NormalTransistorNmos: 158.975 muA
** NormalTransistorNmos: 79.4871 muA
** NormalTransistorNmos: 79.4871 muA
** NormalTransistorNmos: 205.249 muA
** NormalTransistorNmos: 205.248 muA
** NormalTransistorPmos: -205.248 muA
** NormalTransistorPmos: -205.247 muA
** DiodeTransistorNmos: 205.247 muA
** DiodeTransistorNmos: 205.246 muA
** NormalTransistorPmos: -205.246 muA
** NormalTransistorPmos: -205.247 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -272.995 muA


** Expected Voltages: 
** ibias: 0.593001  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 3.68601  V
** inSourceStageBiasComplementarySecondStage: 0.663001  V
** inSourceTransconductanceComplementarySecondStage: 3.84901  V
** innerComplementarySecondStage: 1.25  V
** out: 2.5  V
** outFirstStage: 3.84901  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.93101  V
** innerStageBias: 0.657001  V
** innerTransconductance: 4.40001  V
** inner: 4.40001  V


.END